US08242175B2
1-methyl piperazine (805 μl, 7.6 mmol) was added to a solution of 4-(bromomethyl)benzonitrile (1 g, 5.1 mmol) and TEA (1.4 ml, 10.2 mmol) in DCM (15 ml) and the resulting mixture was stirred at room temperature for 24 hours. The solution was then diluted with DCM, washed with a 5% NaHCO3 solution and then with H2O. The organic phase was dried over Na2SO4 and evaporated to dryness to give 0.73 g of 4-(4-methyl-piperazin-1-yl)-benzonitrile as a white solid.

reactant | 1-methyl piperazine | 7.6 mmol, 805 μl | CN1CCNCC1 | C5H12N2
reactant | 4-(bromomethyl)benzonitrile | 5.1 mmol, 1 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-methyl-piperazin-1-yl)-benzonitrile | 0.73 g | CN1CCN(CC1)C1=CC=C(C#N)C=C1 | C12H15N3
